US20010000513A1
To a stirred solution of 4-bromobenzonitrile (1.807 g, 0.009929 mol) in anhydrous tetrahydrofuran (30 mL) at −85° C. under nitrogen was added dropwise over 15 minutes a 2.1 M solution of n-butyl lithium in hexanes (4.7 mL, 0.0099 mol), and the mixture was stirred. After 20 minutes, trimethylborate (1.0 mL, 0.0088 mol) was added in one portion, and the mixture was allowed to slowly warm. After 40 minutes, the reaction was quenched with 1 M aqueous hydrochloric acid (2.2 mL, 0.0022 mol) and stirred. Solids began crystallizing after 1 hour. The solids were filtered, washed with diethyl ether, and dried under house vacuum (air bleed, T=40° C.) to give 0.918 g of crude (4-cyano-phenyl)boronic acid. This material was used in the next reaction without further purification.

reactant | 4-bromobenzonitrile | 0.009929 mol, 1.807 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | n-butyl lithium | C(CCC)[Li]
reactant | trimethylborate | 0.0088 mol, 1.0 mL | COB(OC)OC | C3H9BO3
reactant | hydrochloric acid | 0.0022 mol, 1 M, 2.2 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (4-cyano-phenyl)boronic acid | 0.918 g | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
